US05635510
58.6 Synthesis of 4-(thiophen-2-yl)-piperidine-4-carboxylic acid amide hydrochloride
Prepare by the method of example 20.10 using 1-tert-butoxycarbonyl-4-(thiophen-2-yl)-piperidine-4-carboxylic acid amide (3 mmol) and HCl in dioxane (40 mmol, 4N) to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-(thiophen-2-yl)-piperidine-4-carboxylic acid amide | 3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N)C=1SC=CC1 | C15H22N2O3S
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N | O1CCOCC1 | C4H8O2
product | 4-(thiophen-2-yl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.S1C(=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C10H14N2OS.ClH/c11-9(13)10(3-5-12-6-4-10)8-2-1-7-14-8;/h1-2,7,12H,3-6H2,(H2,11,13);1H
